US06974582B2
As in Synthetic Example 1, to 113 g of L-arginine were added 706 g of isopropyl alcohol and 302 g of water. Thereto were concurrently added dropwise 176 g of myristoyl chloride (manufactured by Nippon Oil and Fats Co., Ltd.) and 27 wt % NaOH aqueous solution over a period of 2 hours with the pH being maintained at 10.5 to 11.5 and the reaction temperature, at 10 to 13° C. After 1 hour of aging, the reaction mixture was warmed to 50° C. and adjusted to below pH 2.7 by adding concentrated hydrochloric acid to dissolve the reaction product completely. Thereafter, the pH was adjusted to 6.0 by adding 27 wt % NaOH aqueous solution to precipitate crystals and the resulting slurry was gradually cooled to 10° C. with stirring. When the slurry was cooled to 10° C., the crystals were collected by filtration and washed with 1,500 g of water and 492 g of isopropyl alcohol, successively. The resulting washed crystals were dried under reduced pressure to obtain 230 g of mono-Nα-myristoyl-L-arginine as flake-shaped crystals (yield 92.2%).

reactant | L-arginine | 113 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | myristoyl chloride | 176 g | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
reactant | NaOH | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 302 g | O | H2O
solvent | isopropyl alcohol | 706 g | C(C)(C)O | C3H8O
product | mono-Nα-myristoyl-L-arginine | 230 g, yield 92.2% | C(CCCCCCCCCCCCC)(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C20H40N4O3
